US07037922B1
A mixture of 3.59 g of ethyl 4-trimethylacetamido-3-pyridylpyruvate, 2.89 g of potassium hydroxide in 10 mL of ethanol and 40 mL of water is heated at reflux for 2 hours. At this time 3.1 g of acetophenone is added and refluxing is continued for 6 hours. The ethanol is removed in vacuo, the resulting aqueous solution is washed with ether and the aqueous layer is acidified to pH5. The product is collected washed with water and dried to afford (2-phenylpyridino[4,3-b]pyridin-4-yl) carboxylic acid as a white solid.

reactant | ethyl 4-trimethylacetamido-3-pyridylpyruvate | 3.59 g | CC(C(=O)NC1=C(C=NC=C1)CC(C(=O)OCC)=O)(C)C | C15H20N2O4
reactant | potassium hydroxide | 2.89 g | [OH-].[K+]
reactant | acetophenone | 3.1 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 40 mL | O | H2O
product | (2-phenylpyridino[4,3-b]pyridin-4-yl) carboxylic acid | C1(=CC=CC=C1)C1=CC(=C2C(=N1)C=CN=C2)C(=O)O | C15H10N2O2
